US04239769
N-Nitro-N'-[[[[5-(N,N-dimethylaminomethyl)2-thienyl]methyl]thio]ethyl]guanidine
A suspension of N-nitrocarbamimidothioic acid methyl ester (1.05 g) and 2-[[[5-(N,N-dimethylaminomethyl)2-thienyl]methyl]thio]ethanamine (1.6 g) in ethanol (10 ml) was heated at 45° for 10 min. The resultant solid was recrystallised from ethyl acetate to give the title compound as white crystals (1.15 g) m.p. 118°-118.5°. TLC silica/methanol, Rf 0.40.

reactant | N-nitrocarbamimidothioic acid methyl ester | 1.05 g | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
reactant | 2-[[[5-(N,N-dimethylaminomethyl)2-thienyl]methyl]thio]ethanamine | 1.6 g | CN(C)CC1=CC=C(S1)CSCCN | C10H18N2S2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-Nitro-N'-[[[[5-(N,N-dimethylaminomethyl)2-thienyl]methyl]thio]ethyl]guanidine | 1.15 g | [N+](=O)([O-])NC(=N)NCCSCC=1SC(=CC1)CN(C)C | C11H19N5O2S2
